US07282588B2
4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine
To a stirred solution of 4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine (1.3 mmol) in tetrahydrofuran (20 mL) was added a solution of 2 M dimethylamine in tetrahydrofuran (2.0 mmol) followed by sodium triacetoxyborohydride (1.9 mmol). The reaction was stirred at room temperature for 4 h and concentrated to dryness under vacuum. The residue was taken up in ethyl acetate, washed with brine, dried (sodium sulfate), filtered, and evaporated under vacuum. Purification by flash chromatography on silica gel (0-5% (5% ammonium hydroxide, methanol)/methylene chloride) gave the title compound as a yellow solid (87%). ESMS [M+H]+: 607.4

reactant | 4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-(3-formylphenyl)-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 1.3 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C2=CC(=CC=C2)C=O)S(=O)(=O)C2=CC=CC=C2)CC | C31H23N5O5S
reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 1.9 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 mmol | O1CCCC1 | C4H8O
product | 4-[3-(4-nitrophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(dimethylaminomethyl)phenyl]-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 87% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C2=CC(=CC=C2)CN(C)C)S(=O)(=O)C2=CC=CC=C2)CC | C33H30N6O4S
